US06559167B1
2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole (370 mg) was dissolved in 20 ml of dichloromethane and 1 ml of triethylamine. Pyridine-3-sulfonyl chloride (195 mg) was added and stirred in ice-bath for 5 hr. Dichloromethane layer was washed with an aqueous solution composed of 0.1M NaCl and 0.1M sodium bicarbonate. Dichloromethane layer was dried over anhydrous magnesium sulfate. Solvent was removed under reduced pressure. Residual material was precipitated by dichloromethane-ethyl ether-heptane to provide 348 mg of 1-(pyridine-3-sulfonyl)-2-[(3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl)methylsulfinyl]-1H-benzimidazole.

reactant | 2-[[[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole | 370 mg | CC=1C(=NC=CC1OCC(F)(F)F)CS(=O)C1=NC2=C(N1)C=CC=C2 | C16H14F3N3O2S
reactant | Pyridine-3-sulfonyl chloride | 195 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 1-(pyridine-3-sulfonyl)-2-[(3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl)methylsulfinyl]-1H-benzimidazole | 348 mg | N1=CC(=CC=C1)S(=O)(=O)N1C(=NC2=C1C=CC=C2)S(=O)CC2=NC=CC(=C2C)OCC(F)(F)F | C21H17F3N4O4S2
